US06248770B1
e. (R)-2-tert.butyloxycarbonylamino-2-(4-methylamino-3-nitro-phenyl)-propionic Acid
Prepared analogously to Example 1b from (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic acid and methylamine.

reactant | (R)-2-tert.butyloxycarbonylamino-2-(4-chloro-3-nitro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C14H17ClN2O6
reactant | methylamine | CN | CH5N
product | (R)-2-tert.butyloxycarbonylamino-2-(4-methylamino-3-nitro-phenyl)-propionic Acid | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(C)C1=CC(=C(C=C1)NC)[N+](=O)[O-] | C15H21N3O6
